US07592373B2
4.27.b. 2-chloro-N′-[2-(4-methylpiperidin-1-yl)ethyl]benzene-1,4-diamine
Prepared analogously to Example 3.1.b. from (2-chloro-4-nitrophenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine. Yield: 7 g (89.3% of theory); C14H22ClN3 (M=267.80); calc.: molecular ion peak (M+H)+: 268/270; found: molecular ion peak (M+H)+: 268/270; Rf value: 0.6 (Alox, dichloromethane/methanol (49:1)).

reactant | (2-chloro-4-nitrophenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine | ClC1=C(C=CC(=C1)[N+](=O)[O-])NCCN1CCC(CC1)C | C14H20ClN3O2
reactant | dichloromethane methanol | ClCCl.CO
product | 2-chloro-N′-[2-(4-methylpiperidin-1-yl)ethyl]benzene-1,4-diamine | ClC1=C(C=CC(=C1)NCCN1CCC(CC1)C)N | C14H22ClN3
